US06743791B2
1-[5-(2,2,2-Trichloro-acetyl)-1H-pyrrol-3-yl)-propan-1-one (3)
In a dry flask, 3-proprionyl chloride (1 equivalent) was combined with 2-trichloroacetyl pyrrole (1 equivalent) in a minimum amount of dichloromethane (DCM). To the resulting solution, at ambient temperature, was added aluminum trichloride (1 equivalent). After 2 hours, the reaction mixture was applied directly onto a silica gel column. Gradient elution with 10% ethyl acetate to 50% ethyl acetate in hexanes provided compound 3.

reactant | 2-trichloroacetyl pyrrole | 1 equivalent | ClC(C(=O)C=1NC=CC1)(Cl)Cl | C6H4Cl3NO
reactant | aluminum trichloride | 1 equivalent | [Cl-].[Cl-].[Cl-].[Al+3]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-[5-(2,2,2-Trichloro-acetyl)-1H-pyrrol-3-yl)-propan-1-one | ClC(C(=O)C1=CC(=CN1)C(CC)=O)(Cl)Cl | C9H8Cl3NO2
